US07932272B2
2-(3-Phenylsulfanyl-phenyl)-[1,3]dioxolane
2-(3-Bromo-phenyl)-[1,3]dioxolane described in Preparation Example 90 (515 mg, 2.25 mmol) was dissolved in tetrahydrofuran (10 mL) under nitrogen atmosphere, n-butyl lithium (2.47M hexane solution, 1.64 mL, 4.05 mmol) was added at −78° C., the solution was stirred for 15 minutes, then, diphenyldisulphide (540 mg, 2.48 mmol) was added thereto, followed by stirring for 3 hours. The reaction solution was cooled to 0° C., water was added, the solution was extracted with ethyl acetate, the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1), and the title compound (402 mg, 1.56 mmol, 69%) was obtained as a colorless oil.

reactant | 2-(3-Bromo-phenyl)-[1,3]dioxolane | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | n-butyl lithium | 4.05 mmol, 2.47M, 1.64 mL | C(CCC)[Li]
reactant | diphenyldisulphide | 2.48 mmol, 540 mg | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(3-Phenylsulfanyl-phenyl)-[1,3]dioxolane | 1.56 mmol, 402 mg, 69% | C1(=CC=CC=C1)SC=1C=C(C=CC1)C1OCCO1 | C15H14O2S
